US08114894B2
N-(1-Butylpiperidin-4-yl)-2-(1-isopropyl-1H-indol-3-yl)-2-oxoacetamide
The title compound was prepared according to general procedure E described in Scheme 2. 2-(1-Isopropyl-1H-indol-3-yl)-2-oxo-N-(piperidin-4-yl)acetamide hydrochloride (200 mg, 0.64 mmol) was treated with acetonitrile (3 mL), K2CO3 (265 mg, 1.91 mmol), and n-butyl bromide (175 mg, 1.28 mmol). The reaction mixture was stirred at 65° C. for 72 h and was then concentrated under reduced pressure. The crude material was purified on silica gel (Biotage, 2-10% MeOH/DCM, 30 min.) to provide the title compound as a pink solid (68 mg, 29% yield): 1H NMR (400 MHz, CDCl3): δ 9.11 (s, 1H), 8.43 (t, 1H), 7.56 (d, 1H), 7.43 (q, 1H), 7.35 (t, 2H), 4.71 (m, 1H), 3.90 (m, 1H), 3.03 (d, 2H), 2.48 (d, 2H), 2.31 (t, 2H), 2.05 (d, 2H), 1.80 (m, 2H), 1.61 (d+m, 8H), 1.34 (m, 2H), 0.94 (t, 3H);

reactant | 2-(1-Isopropyl-1H-indol-3-yl)-2-oxo-N-(piperidin-4-yl)acetamide hydrochloride | 0.64 mmol, 200 mg | Cl.C(C)(C)N1C=C(C2=CC=CC=C12)C(C(=O)NC1CCNCC1)=O
reactant | K2CO3 | 1.91 mmol, 265 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | n-butyl bromide | 1.28 mmol, 175 mg | C(CCC)Br | C4H9Br
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | N-(1-Butylpiperidin-4-yl)-2-(1-isopropyl-1H-indol-3-yl)-2-oxoacetamide | 68 mg, 29% yield | C(CCC)N1CCC(CC1)NC(C(=O)C1=CN(C2=CC=CC=C12)C(C)C)=O | C22H31N3O2
